US04526704
956 mg of the 4-[2-(p-pentylphenyl)ethenyl]cyclohexanecarbonitrile obtained were dissolved in 50 ml of toluene in a sulphonation flask, treated with 150 mg of 10% palladium/carbon and hydrogenated at normal pressure and room temperature until the hydrogen uptake came to a standstill (about 30 minutes). Filtration of the mixture (rinsing with toluene), concentration of the filtrate and low-pressure chromatography (0.4 bar) of the residue (890 mg) on silica gel using 5% ethyl acetate/petroleum ether as the eluting agent gave 788 mg (82%) of 4-[2-(p-pentylphenyl)ethyl]cyclohexanecarbonitrile (cis/trans ratio about 1:3 according to gas chromatography and NMR spectroscopy). Two-fold crystallization from pentane at -20° C. finally yielded the trans-nitrile (trans content 98.8%); m.p. (C-I) 22.4° C., cl.p. (N-I) -14.1° C., Rf value (5% ethyl acetate/petroleum ether) 0.22.

reactant | 4-[2-(p-pentylphenyl)ethenyl]cyclohexanecarbonitrile | 956 mg | C(CCCC)C1=CC=C(C=C1)C=CC1CCC(CC1)C#N | C20H27N
reactant | hydrogen | [H][H] | H2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium/carbon | 150 mg | [Pd] | Pd
product | 4-[2-(p-pentylphenyl)ethyl]cyclohexanecarbonitrile | 788 mg, 82% | C(CCCC)C1=CC=C(C=C1)CCC1CCC(CC1)C#N | C20H29N
